US07276610B2
{3-[({2-[(2-Isopropoxy-phenyl)-methyl-amino]-ethyl}-methyl-amino)-methyl]-phenyl}-piperidin-1-yl-methanone
The title compound was prepared as in Example 27 substituting [3-({2-[(2-isopropoxy-phenyl)-methyl-amino]-ethylamino}-methyl)-phenyl]-piperidin-1-yl-methanone for (3-{[2-(2-isopropoxy-phenylamino)-ethylamino]-methyl}-phenyl)-piperidin-1-yl-methanone. MS (ESI): mass calculated for C26H37N3O2, 323.29. m/z found, 324.5 [M+H]+. 1H NMR (400 MHz, CDCl3): 7.71 (dd, J=5.9, 3.3 Hz, 1H), 7.53 (dd, J=5.9, 3.3 Hz, 1H), 7.30-7.33 (m, 2H), 6.93-6.82 (m, 4H), 4.59 (hept, J=6.1 Hz, 1H), 3.70 (br s, 2H), 3.52 (s, 2H), 3.31 (br s, 2H), 3.25 (t, J=7.3 Hz, 2H), 2.80 (s, 3H), 2.63 (t, J=7.3 Hz, 2H), 2.19 (s, 3H), 1.67 (br s, 6H), 1.35 (d, J=6.1 Hz, 6H).

reactant | [3-({2-[(2-isopropoxy-phenyl)-methyl-amino]-ethylamino}-methyl)-phenyl]-piperidin-1-yl-methanone | C(C)(C)OC1=C(C=CC=C1)N(CCNCC=1C=C(C=CC1)C(=O)N1CCCCC1)C | C25H35N3O2
reactant | (3-{[2-(2-isopropoxy-phenylamino)-ethylamino]-methyl}-phenyl)-piperidin-1-yl-methanone | C(C)(C)OC1=C(C=CC=C1)NCCNCC=1C=C(C=CC1)C(=O)N1CCCCC1 | C24H33N3O2
product | {3-[({2-[(2-Isopropoxy-phenyl)-methyl-amino]-ethyl}-methyl-amino)-methyl]-phenyl}-piperidin-1-yl-methanone | C(C)(C)OC1=C(C=CC=C1)N(CCN(C)CC=1C=C(C=CC1)C(=O)N1CCCCC1)C | C26H37N3O2
